US07462620B2
4-(4-Chlorophenyl)benzaldehyde
A mixture of 4-chlorobenzeneboronic acid (19.4 g, 1 equiv), 4-bromobenzaldehyde (22.9 g, 1 equiv), palladium(II) acetate (1.4 g, 0.05 equiv), aqueous sodium carbonate (30.3 g in 144 ml solution, 2 equiv) and dimethoxyethane (500 ml) was stirred at reflux under argon for 2.5 h, then evaporated to low volume and diluted with dichloromethane. Workup continued as in (a) above to give identical material (25.2 g, 94%). 1H-NMR (CDCl3) δ 10.05 (1H, s), 7.96 (2H, d), 7.73 (2H, d), 7.57 (2H, d), 7.46 (2H, d); MS (AP+) found (M+1)=217, C13H9ClO requires 216.

reactant | 4-chlorobenzeneboronic acid | 19.4 g, 1 equiv | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 4-bromobenzaldehyde | 22.9 g, 1 equiv | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | sodium carbonate | 144 ml, 30.3 g, 2 equiv | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) acetate | 1.4 g, 0.05 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethoxyethane | 500 ml | C(OC)COC | C4H10O2
product | 4-(4-Chlorophenyl)benzaldehyde | 25.2 g, 94% | ClC1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
